US07001917B2
Step 1. 2-[4-(4-Butyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 2-(4-hydrazinophenyl)ethanol hydrochloride and 3-n-butyl-2,4-pentanedione: MS (ESI) m/z 273 [M+H]+, 1H-NMR (CDCl3) δ 7.37-7.26 (4H, m), 3.87 (2H, t, J=6.8 Hz), 2.91 (2H, t, J=6.6 Hz), 2.39 (2H, t, J=7.6 Hz), 2.25 (3H, s), 2.22 (3H, s), 1.53-1.26 (4H, m), 0.94 (3H, t, J=7.1 Hz).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | 3-n-butyl-2,4-pentanedione | C(CCC)C(C(C)=O)C(C)=O | C9H16O2
product | 2-[4-(4-Butyl-3,5-dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | C(CCC)C=1C(=NN(C1C)C1=CC=C(C=C1)CCO)C | C17H24N2O
